US08202865B2
Step 1: 3-cyano-4-(2-methylpiperidin-1-yl)benzoic acid
2-Methylpiperidine (2.38 mL; 20.29 mmol; 5 eq.) was added to a solution of methyl 3-cyano-4-fluorobenzoate, prepared as described in J. Med. Chem. 2004, 47, 1339-1350 from 2-fluoro-5-formylbenzonitrile (Aldrich; 49, 408-9), (727 mg; 4.06 mmol; 1 eq.) in DMF (4 mL). The resulting mixture was stirred at RT for 2 days. The solution was partitioned between EtOAc and water and the phases separated. The organic layer was washed with 0.1M HCl then with NaCl sat. solution, dried over magnesium sulfate. Evaporation under reduced pressure afforded a greenish oil. The latter was taken up in THF (10 mL), LiOH (340.57 mg; 8.12 mmol; 2 eq.) then water (10 mL) were added and the reaction mixture was stirred at RT for 16 hours. The resulting solution was diluted with water and washed with Et2O. The aqueous layer was made acidic (pH 2) by addition of 1M HCl and extracted with EtOAc. The organic phase was dried over magnesium sulfate and concentrated in vacuo to give a slightly yellow oil. The oil was triturated in a mixture of EtOAc and n-pentane and the resulting precipitate was filtered and dried to afford the title compound as an off-white solid. 1H NMR (DMSO-d6, 300 MHz) δ 13 (hr s, 1H), 8.08 (d, J=2.1 Hz, 1H), 8.01 (dd, J=8.8, 2.1 Hz, 1H), 7.18 (d, J=8.9 Hz, 1H), 4.12-4.08 (m, 1H), 3.35-3.25 (m, 2H), 1.84-1.53 (m, 6H), 1.09 (d, J=6.6 Hz, 3H). LC/MS (Method B): 243.2 (M−H)−; 245.2 (M+H)+.

reactant | 2-Methylpiperidine | 20.29 mmol, 2.38 mL, 5 eq. | CC1NCCCC1 | C6H13N
reactant | methyl 3-cyano-4-fluorobenzoate | C(#N)C=1C=C(C(=O)OC)C=CC1F | C9H6FNO2
reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | LiOH | 8.12 mmol, 340.57 mg, 2 eq. | [Li+].[OH-]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-cyano-4-(2-methylpiperidin-1-yl)benzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1N1C(CCCC1)C | C14H16N2O2
